US05795887
(R)-2-[3-(1H-Indol-3-ylmethyl)-2,5-dioxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methyoxy-phenyl)-acetamide
A mixture of 2-(2,4-Dioxo-6H-benzo[d][1,3]oxazin-1-yl)-N-isopropyl-N-(4-methyoxy-phenyl)-acetamide (1.00 g, 2.71 mmol), D-tryptophan (554 mg, 2.71 mmol) and triethylamine (0.378 mL, 2.71 mmol) are combined in water (20 mL) and stirred for 5 hrs. at 50° C. After concentration in vacuo, the reaction mixture is combined with glacial acetic acid (20 mL) and refluxed for 5 hrs. The reaction mixture is filtered and then concentrated in vacuo to an oil. The oil is dissolved in ethyl acetate and washed consecutively with water (2×), saturated aqueous sodium bicarbonate, and brine. The solution is dried over anyhydrous magnesium sulfate, filtered, treated with activated charcoal, filtered and concentrated in vacuo to a yellow foam. The product is crystallized from methanol (15 mL). The resulting slurry is cooled with an ice/water bath, filtered and washed with cold methanol (3×4 mL), and dried under high vacuum to provide the title compound as white solid (469 mg, 0.918 mmol). 1H NMR (300 MHz, CDCl3): 1.11 (m, 6H); 3.22 (m, 1H); 3.46 (m, 1H); 3.69 (d, 1H, J=16.6 Hz); 3.83 (s, 3H); 4.20 (m, 1H); 4.45 (d, 1H, J=16.6 Hz); 5.06 (m, 1H); 6.06 (d, 1H, J=5.4 Hz); 6.88-7.37 (m, 10H); 7.50 (m, 2H); 7.73 (m, 1H); 8.14 (s, 1H). MS(FAB): [M+H]+ =511.

reactant | 2-(2,4-Dioxo-6H-benzo[d][1,3]oxazin-1-yl)-N-isopropyl-N-(4-methyoxy-phenyl)-acetamide | 2.71 mmol, 1.00 g | O=C1OC(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CCC2)=O | C20H22N2O5
reactant | D-tryptophan | 2.71 mmol, 554 mg | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | triethylamine | 2.71 mmol, 0.378 mL | C(C)N(CC)CC | C6H15N
solvent | water | 20 mL | O | H2O
product | (R)-2-[3-(1H-Indol-3-ylmethyl)-2,5-dioxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methyoxy-phenyl)-acetamide | 0.918 mmol, 469 mg | N1C=C(C2=CC=CC=C12)C[C@H]1NC(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O | C30H30N4O4
